US07151139B2
Pyridine (10 mL), hexyl bromide (18 mL), and triethylamine (0.1 mL) were dissolved in 122 mL of toluene, and the solution was stirred at 75° C. for 9 h. The solvent was then removed under reduced pressure. N-Hexylpyridinium bromide thus obtained was washed with hexane four times and dried overnight under vacuum.

reactant | Pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
reactant | hexyl bromide | 18 mL | C(CCCCC)Br | C6H13Br
reactant | triethylamine | 0.1 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 122 mL | C1(=CC=CC=C1)C | C7H8
product | N-Hexylpyridinium bromide | [Br-].C(CCCCC)[N+]1=CC=CC=C1 | InChI=1S/C11H18N.BrH/c1-2-3-4-6-9-12-10-7-5-8-11-12;/h5,7-8,10-11H,2-4,6,9H2,1H3;1H/q+1;/p-1
